US07691850B2
b) 4-Hydroxy-6-(methyloxy)-3-quinolinecarbonitrile
To a cold solution of acetonitrile (2 mL, 38 mmol, 2.8 eq) in THF (30 mL) at −72° C. (Dry-ice/IPA) was added dropwise nBuLi (12 mL, 30 mmol, 2.2 eq) under argon atmosphere. The reaction mixture became an orange suspension after 1 h. A solution of methyl 2-{[(1E)-(dimethylamino)methylidene]amino}-5-(methyloxy)benzoate (3.2 g, 13.6 mmol, 1 eq) in THF (30 mL) was then added dropwise while the internal temperature was maintained at −72° C. The resulting mixture was slowly warmed to RT overnight. To the resulting light-brown suspension was added glacial acetic acid (6 mL) with slight cooling. After stirring for 1 h, the suspension was then quenched with water (60 mL) and filtered to give the titled compound (2.3 g, 85% yield).

reactant | acetonitrile | 38 mmol, 2 mL, 2.8 eq | C(C)#N | C2H3N
reactant | Dry-ice IPA | C(=O)=O.CC(C)O
reactant | nBuLi | 30 mmol, 12 mL, 2.2 eq | [Li]CCCC
reactant | methyl 2-{[(1E)-(dimethylamino)methylidene]amino}-5-(methyloxy)benzoate | 13.6 mmol, 3.2 g, 1 eq | CN(C)\C=N\C1=C(C(=O)OC)C=C(C=C1)OC | C12H16N2O3
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 4-Hydroxy-6-(methyloxy)-3-quinolinecarbonitrile | 2.3 g, 85% yield | OC1=C(C=NC2=CC=C(C=C12)OC)C#N | C11H8N2O2
